US04417067
As in Example 1, 821 g (2 mol) of a diffusion pump oil consisting mostly of 1,1,3,3-tetraphenyl-1,3-dimethyldisiloxane was saturated with hydrogen chloride at -10° C. within one hour, approximately 170 g of hydrogen chloride being required for this purpose. In the meantime, approximately 70 g of bottom phase was separated in several portions (HCl content approx. 47%). The subsequent distillation of the upper phase produced, at a boiling point of 128° to 131° C. (1 mbar), 902 g of methyldiphenylchlorosilane, corresponding to a product yield of about 97%.

reactant | 1,1,3,3-tetraphenyl-1,3-dimethyldisiloxane | C1(=CC=CC=C1)[Si](O[Si](C)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C1=CC=CC=C1 | C26H26OSi2
reactant | hydrogen chloride | Cl | ClH
reactant | hydrogen chloride | approximately 170 g | Cl | ClH
product | methyldiphenylchlorosilane | 902 g | C[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13ClSi
